US08404679B2
N-[(3RS,4SR)-1-[1-(2-Cyano-ethyl)-piperidine-4-carbonyl]-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
To a solution of N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide (50 mg, 0.090 mmol) in dichloromethane (1 mL) was added 3-bromopropionitrile (11 μL, 0.13 mmol) and an aqueous saturated solution of sodium carbonate (1000 μL). The resulting suspension was stirred for 18 h at ambient temperature. After the addition of dichloromethane (1 mL) and further 3-bromopropionitrile (11 μL, 0.13 mmol) it was stirred for 6 h at 40° C. After diluting with ethyl acetate (10 mL) the mixture was washed with an aqueous solution of sodium carbonate (10 mL) and water (10 mL). The aqueous layer was extracted with ethyl acetate (10 mL) and the combined organic layers were dried over sodium sulfate. Purification by chromatography (SiO2, heptane:ethyl acetate:(ethyl acetate:triethylamine=95:5):methanol=20:80:0:0 to 0:0:90:10) afforded the title compound (51 mg, 93%) as an light brown foam. MS m/e: 611.2 [M]+.

reactant | N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 0.090 mmol, 50 mg | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCNCC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C26H28Cl2F3N3O3
reactant | 3-bromopropionitrile | 0.13 mmol, 11 μL | BrCCC#N | C3H4BrN
reactant | sodium carbonate | 1000 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-bromopropionitrile | 0.13 mmol, 11 μL | BrCCC#N | C3H4BrN
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-[(3RS,4SR)-1-[1-(2-Cyano-ethyl)-piperidine-4-carbonyl]-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 51 mg, 93% | C(#N)CCN1CCC(CC1)C(=O)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C29H31Cl2F3N4O3
